US06984653B2
Production of 2-[(E)-2-(4-chloro-3-fluorophenyl)ethenyl]-4-[[4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-1,3-oxazole
Using 2-[(E)-2-(4-chloro-3-fluorophenyl)ethenyl]-4-(chloromethyl)-1,3-oxazole (291 mg), 4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-1-yl]butyl]phenol (300 mg) and 65% sodium hydride (39.5 mg), the same reaction as Example 11-(i) was carried out to yield the titled compound (333 mg) as colorless needle crystals.

reactant | 2-[(E)-2-(4-chloro-3-fluorophenyl)ethenyl]-4-(chloromethyl)-1,3-oxazole | 291 mg | ClC1=C(C=C(C=C1)/C=C/C=1OC=C(N1)CCl)F | C12H8Cl2FNO
reactant | 4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-1-yl]butyl]phenol | 300 mg | CS(=O)(=O)CC=1N(C=CN1)CCCCC1=CC=C(C=C1)O | C15H20N2O3S
reactant | sodium hydride | 39.5 mg | [H-].[Na+]
product | 2-[(E)-2-(4-chloro-3-fluorophenyl)ethenyl]-4-[[4-[4-[2-[(methylsulfonyl)methyl]-1H-imidazol-1-yl]butyl]phenoxy]methyl]-1,3-oxazole | 333 mg | ClC1=C(C=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CS(=O)(=O)C)F | C27H27ClFN3O4S
